US04952601
200 g of 2,3,4-trifluorobenzotrifluoride in 500 ml of tetrahydrofuran are introduced in an autoclave, and 60 ml of liquid ammonia are forced in. The mixture is stirred at 130° C. for 6 hours (maximum pressure 18 bar), cooled, and released. By distillation, 72 g of 2-amino-3,4-difluoro-benzotrifluoride are obtained at a boiling point of 60° to 64° C. at 26 mbar and 92 g of 2,3-difluoro-4-amino-benzotrifluoride are obtained at a boiling point of 92° to 93° C. at 26 mbar.

reactant | 2,3,4-trifluorobenzotrifluoride | 200 g | FC1=C(C=CC(=C1F)F)C(F)(F)F | C7H2F6
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2,3-difluoro-4-amino-benzotrifluoride | 92 g | FC1=C(C=CC(=C1F)N)C(F)(F)F | C7H4F5N
